### PR TITLE
[Merged by Bors] - feat: Infinite products

### PR DESCRIPTION
**Pull request by trivial1711**
Last year, YaelDillies made a pull request to mathlib3 that unfortunately never got merged in: https://github.com/leanprover-community/mathlib/pull/18405. This is the mathlib4 version of that pull request.

We define arbitrarily indexed products in a commutative monoid with a topology. This is done by "multiplicativizing" the currently existing definitions and theorems about arbitrarily indexed sums. That is, the existing code is rewritten in the multiplicative setting, and the original definitions and theorems are recovered using `@[to_additive]`. Please see this thread on Zulip for information on why this approach was chosen: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Infinite.20products

As YaelDillies wrote in the description of https://github.com/leanprover-community/mathlib/pull/18405, there are a few small technical issues that arise when directly "multiplicativizing" theorems in this way:
- I have renamed `cauchySeq_finset_iff_vanishing` to `cauchySeq_finset_iff_sum_vanishing` to make the name multiplicativizable. This is slightly different from the name `cauchy_seq_finset_sum_iff_vanishing` that YaelDillies used, and it is meant to parallel the existing name `cauchySeq_finset_iff_tsum_vanishing`.
- Currently, on master, there is a theorem called `tsum_sum` about taking the `tsum` of a `sum`, and a theorem called `tsum_prod` about taking a `tsum` on a product of two index sets. I have called the multiplicative versions `tprod_of_prod` and `tprod_prod`. This is slightly different from the names `tprod_prod''` and `tprod_prod` that YaelDillies used. eric-wieser suggested renaming `tsum_prod` to `tsum_prod_index` to get around this issue, which I can do in a separate pull request.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 1]
```diff
@@ -25,526 +25,605 @@ open scoped BigOperators Topology
...
-  (hs.hasSum.compl_add hsc.hasSum).summable
+@[to_additive]
+theorem Multipliable.compl_add {s : Set β} (hs : Multipliable (f ∘ (↑) : (sᶜ : Set β) → α))
+    (hsc : Multipliable (f ∘ (↑) : s → α)) : Multipliable f :=
+  (hs.hasProd.compl_mul hsc.hasProd).multipliable
 #align summable.compl_add Summable.compl_add
 
-/-- Version of `HasSum.update` for `AddCommMonoid` rather than `AddCommGroup`.
+@[to_additive "Version of `HasSum.update` for `AddCommMonoid` rather than `AddCommGroup`.
 Rather than showing that `f.update` has a specific sum in terms of `HasSum`,
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:315]: Why is there no multiplicative docstring here?

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 2]
```diff
@@ -25,526 +25,605 @@ open scoped BigOperators Topology
...
+    ∏' b, ∏ i in s, f i b = ∏ i in s, ∏' b, f i b :=
+  (hasProd_prod fun i hi ↦ (hf i hi).hasProd).tprod_eq
 #align tsum_sum tsum_sum
 
-/-- Version of `tsum_eq_add_tsum_ite` for `AddCommMonoid` rather than `AddCommGroup`.
-Requires a different convergence assumption involving `Function.update`. -/
-theorem tsum_eq_add_tsum_ite' [DecidableEq β] {f : β → α} (b : β) (hf : Summable (update f b 0)) :
-    ∑' x, f x = f b + ∑' x, ite (x = b) 0 (f x) :=
+@[to_additive "Version of `tsum_eq_add_tsum_ite` for `AddCommMonoid` rather than `AddCommGroup`.
+Requires a different convergence assumption involving `Function.update`."]
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:591]: Similarly here

File: Mathlib/Topology/Algebra/InfiniteSum/Defs.lean [hunk 3]
```diff
@@ -9,12 +9,15 @@ import Mathlib.Algebra.BigOperators.Finprod
...
-permutations. For Euclidean spaces (finite dimensional Banach spaces) this is equivalent to absolute
+This file defines unconditionally convergent sums over a commutative topological additive monoid.
+For Euclidean spaces (finite dimensional Banach spaces) this is equivalent to absolute
 convergence.
 
+We also define unconditionally convergent products over a commutative topological multiplicative
+monoid.
+
 Note: There are summable sequences which are not unconditionally convergent! The other way holds
 generally, see `HasSum.tendsto_sum_nat`.
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/Defs.lean:23]:
```suggestion
## Implementation notes

This is probably not the definition you expect for multiplication because blablabla.
```

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 4]
```diff
@@ -35,88 +35,100 @@ section Nat
...
-section ContinuousAdd
+section ContinuousMul
 
-variable [ContinuousAdd M]
+variable [ContinuousMul M]
 
-theorem comp_nat_add {f : ℕ → M} {k : ℕ} (h : Summable fun n ↦ f (n + k)) : Summable f :=
-  h.hasSum.sum_range_add.summable
+@[to_additive]
+theorem comp_nat_mul {f : ℕ → M} {k : ℕ} (h : Multipliable fun n ↦ f (n + k)) : Multipliable f :=
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:92]:
```suggestion
theorem comp_nat_add {f : ℕ → M} {k : ℕ} (h : Multipliable fun n ↦ f (n + k)) : Multipliable f :=
```

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 5]
```diff
@@ -35,88 +35,100 @@ section Nat
...
 variable [Encodable β]
 
-/-- You can compute a sum over an encodable type by summing over the natural numbers and
-  taking a supremum. This is useful for outer measures. -/
-theorem tsum_iSup_decode₂ [CompleteLattice α] (m : α → M) (m0 : m ⊥ = 0) (s : β → α) :
-    ∑' i : ℕ, m (⨆ b ∈ decode₂ β i, s b) = ∑' b : β, m (s b) := by
-  rw [← tsum_extend_zero (@encode_injective β _)]
-  refine tsum_congr fun n ↦ ?_
+/-- You can compute a product over an encodable type by multiplying over the natural numbers and
+taking a supremum. This is useful for outer measures. -/
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:113]:
```suggestion
taking a supremum. -/
```

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 6]
```diff
@@ -24,202 +24,232 @@ variable {ι κ α : Type*}
...
+theorem HasProd.le_one (h : ∀ i, g i ≤ 1) (ha : HasProd g a) : a ≤ 1 :=
+  hasProd_le h ha hasProd_one
 #align has_sum.nonpos HasSum.nonpos
 
-theorem tsum_nonneg (h : ∀ i, 0 ≤ g i) : 0 ≤ ∑' i, g i := by
-  by_cases hg : Summable g
-  · exact hg.hasSum.nonneg h
-  · rw [tsum_eq_zero_of_not_summable hg]
+@[to_additive]
+theorem tprod_one_le (h : ∀ i, 1 ≤ g i) : 1 ≤ ∏' i, g i := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean:151]:
```suggestion
@[to_additive tsum_nonneg]
theorem one_le_tprod (h : ∀ i, 1 ≤ g i) : 1 ≤ ∏' i, g i := by
```

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 7]
```diff
@@ -24,202 +24,232 @@ variable {ι κ α : Type*}
...
-  tsum_lt_tsum hle hi hf hg
+  tprod_lt_tprod hle hi hf hg
 #align tsum_strict_mono tsum_strict_mono
 
-theorem tsum_pos (hsum : Summable g) (hg : ∀ i, 0 ≤ g i) (i : ι) (hi : 0 < g i) :
-    0 < ∑' i, g i := by
-  rw [← tsum_zero]
-  exact tsum_lt_tsum hg hi summable_zero hsum
+@[to_additive]
+theorem tprod_one_lt (hsum : Multipliable g) (hg : ∀ i, 1 ≤ g i) (i : ι) (hi : 1 < g i) :
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean:209]:
```suggestion
@[to_additive tsum_pos]
theorem one_lt_tprod (hsum : Multipliable g) (hg : ∀ i, 1 ≤ g i) (i : ι) (hi : 1 < g i) :
```

**Review by YaelDillies — COMMENTED** [review]
Please avoid mentioning people *above* the `---` in your PR description as then the mentions will happen every time your commit appears in a merge commit anywhere on github.

Mostly looks good, but I need a second pair of eyes because the diff is big.

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean (hunk 1 above)
Comment (trivial1711) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:315]: The reason is silly. It is because I multiplicativized this file before multiplicativizing on `Topology.Algebra.InfiniteSum.Group`, so the lemma `HasProd.update`, which I needed to reference in the multiplicative docstring, didn't exist yet. Thank you for catching this.

**Comment by trivial1711** [comment]
Thank you for the review. I have taken into account your comments.

**Comment by trivial1711** [comment]
Thanks; I've added the docstrings

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 8]
```diff
@@ -393,88 +443,96 @@ theorem HasSum.nat_add_neg {f : ℤ → M} (hf : HasSum f m) :
...
 section UniformGroup -- results which depend on completeness
 
-variable [UniformSpace G] [UniformAddGroup G] [CompleteSpace G]
+variable [UniformSpace G] [UniformGroup G] [CompleteSpace G]
 
-/-- "iff" version of `Summable.of_nat_of_neg_add_one`. -/
-lemma summable_int_iff_summable_nat_and_neg_add_one {f : ℤ → G} :
-    Summable f ↔ (Summable fun n : ℕ ↦ f n) ∧ (Summable fun n : ℕ ↦ f (-(n + 1))) := by
-  refine ⟨fun p ↦ ⟨?_, ?_⟩, fun ⟨hf₁, hf₂⟩ ↦ Summable.of_nat_of_neg_add_one hf₁ hf₂⟩ <;>
+@[to_additive "\"iff\" version of `Summable.of_nat_of_neg_add_one`."]
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:525]: Missing docstring

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 9]
```diff
@@ -393,88 +443,96 @@ theorem HasSum.nat_add_neg {f : ℤ → M} (hf : HasSum f m) :
...
+    (Multipliable fun n : ℕ ↦ f n) ∧ (Multipliable fun n : ℕ ↦ f (-(n + 1))) := by
+  refine ⟨fun p ↦ ⟨?_, ?_⟩, fun ⟨hf₁, hf₂⟩ ↦ Multipliable.of_nat_of_neg_add_one hf₁ hf₂⟩ <;>
   apply p.comp_injective
   exacts [Nat.cast_injective, @Int.negSucc.inj]
 
-/-- "iff" version of `Summable.of_natCast_neg_natCast`. -/
-lemma summable_int_iff_summable_nat_and_neg {f : ℤ → G} :
-    Summable f ↔ (Summable fun n : ℕ ↦ f n) ∧ (Summable fun n : ℕ ↦ f (-n)) := by
-  refine ⟨fun p ↦ ⟨?_, ?_⟩, fun ⟨hf₁, hf₂⟩ ↦ Summable.of_nat_of_neg hf₁ hf₂⟩ <;>
+@[to_additive "\"iff\" version of `Summable.of_natCast_neg_natCast`."]
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:532]: Missing docstring

**Review by YaelDillies — COMMENTED** [review]
Okay I think those are the last two

**Comment by trivial1711** [comment]
Sorry for missing so many of them.

**Review by YaelDillies — APPROVED** [review]
Looks alright to me but I need a second pair of eyes because the diff is big.

maintainer merge

Btw no need to ask for Johannes' review. He has left the community in 2019.

File: Mathlib/Topology/Algebra/InfiniteSum/Defs.lean [hunk 10]
```diff
@@ -39,11 +56,16 @@ open scoped BigOperators Topology
 
 variable {α β γ : Type*}
 
-section HasSum
+section HasProd
+
+variable [CommMonoid α] [TopologicalSpace α]
 
-variable [AddCommMonoid α] [TopologicalSpace α]
+/-- Infinite product on a topological monoid
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/InfiniteSum/Defs.lean:64]: Could you explain in the docstring what this actually is, in addition to referring to `hasSum`? In a tooltip, the user will not have the opportunity to see the definition of `hasSum`, so docstrings should be self-contained when possible.

File: Mathlib/Topology/Algebra/InfiniteSum/Defs.lean [hunk 11]
```diff
@@ -54,90 +76,108 @@ This is based on Mario Carneiro's
...
-/-- `∑' i, f i` is the sum of `f` it exists, or 0 otherwise. -/
-irreducible_def tsum {β} (f : β → α) :=
-  if h : Summable f then
+/-- `∏' i, f i` is the product of `f` it exists, or 1 otherwise. -/
+@[to_additive "`∑' i, f i` is the sum of `f` it exists, or 0 otherwise."]
+noncomputable irreducible_def tprod {β} (f : β → α) :=
+  if h : Multipliable f then
   /- Note that the sum might not be uniquely defined if the topology is not separated.
   When the support of `f` is finite, we make the most reasonable choice to use the finite sum over
   the support. Otherwise, we choose arbitrarily an `a` satisfying `HasSum f a`. -/
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/InfiniteSum/Defs.lean:97]: adjust to the multiplicative world.

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean [hunk 12]
```diff
@@ -22,327 +22,379 @@ variable {α β γ δ : Type*}
...
     rw [Filter.mem_map, mem_atTop_sets]
     exact ⟨s, fun t hts ↦ hs _ <| Set.disjoint_left.mpr fun a ha has ↦ ha (hts has)⟩
-  · refine tendsto_const_nhds.congr fun _ ↦ (tsum_eq_zero_of_not_summable ?_).symm
-    rwa [Finset.summable_compl_iff]
+  · refine tendsto_const_nhds.congr fun _ ↦ (tprod_eq_one_of_not_multipliable ?_).symm
+    rwa [Finset.multipliable_compl_iff]
 #align tendsto_tsum_compl_at_top_zero tendsto_tsum_compl_atTop_zero
 
-/-- Series divergence test: if `f` is a convergent series, then `f x` tends to zero along
+/-- Series divergence test: if `f` is unconditionally multipliable, then `f x` tends to one along
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/InfiniteSum/Group.lean:359]:
```suggestion
/-- Product divergence test: if `f` is unconditionally multipliable, then `f x` tends to one along
```

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 13]
```diff
@@ -35,88 +35,100 @@ section Nat
...
-namespace Summable
+namespace Multipliable
 
-theorem hasSum_iff_tendsto_nat [T2Space M] {f : ℕ → M} (hf : Summable f) :
-    HasSum f m ↔ Tendsto (fun n : ℕ ↦ ∑ i in range n, f i) atTop (𝓝 m) := by
-  refine ⟨fun h ↦ h.tendsto_sum_nat, fun h ↦ ?_⟩
-  rw [tendsto_nhds_unique h hf.hasSum.tendsto_sum_nat]
-  exact hf.hasSum
+@[to_additive]
+theorem hasSum_iff_tendsto_nat [T2Space M] {f : ℕ → M} (hf : Multipliable f) :
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:80]:
```suggestion
theorem hasProd_iff_tendsto_nat [T2Space M] {f : ℕ → M} (hf : Multipliable f) :
```

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 14]
```diff
@@ -129,117 +141,134 @@ section Countable
...
 #align tsum_eq_zero_add tsum_eq_zero_add
 
-/-- For `f : ℕ → G`, then `∑' k, f (k + i)` tends to zero. This does not require a summability
-assumption on `f`, as otherwise all sums are zero. -/
-theorem tendsto_sum_nat_add [T2Space G] (f : ℕ → G) :
-    Tendsto (fun i ↦ ∑' k, f (k + i)) atTop (𝓝 0) := by
-  by_cases hf : Summable f
-  · have h₀ : (fun i ↦ ∑' i, f i - ∑ j in range i, f j) = fun i ↦ ∑' k : ℕ, f (k + i) := by
+/-- For `f : ℕ → G`, the product `∏' k, f (k + i)` tends to one. This does not require a
+multipliability assumption on `f`, as otherwise all such sums are one. -/
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:243]:
```suggestion
multipliability assumption on `f`, as otherwise all such products are one. -/
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks so much for doing this!

**Comment by sgouezel** [comment]
(Before merging, please take into account Yael's comment on names in the PR description)

**Comment by YaelDillies** [comment]
(This was already done)
